US07829590B2
Method B: 3-[1-(2-Chloro-phenyl)-ethoxy]-5-imidazol-1-yl-thiophene-2-carboxylic acid methyl ester
Triphenyl phosphine (304 mg, 1.16 mmol, 1.3 Eq.), 1-(2-Chloro-phenyl)-ethanol (182 mg, 1.16 mmol, 1.3 Eq.) and 3-Hydroxy-5-imidazol-1-yl-thiophene-2-carboxylic acid methyl ester (200 mg, 0.89 mmol, 1.0 Eq.) in anhydrous THF (5 mL) were cooled to 0° C. under nitrogen. Diethyl azodicarboxylate (183 μL, 1.16 mmol, 1.3 Eq.) was added dropwise. The reaction was stirred at 0° C. for 30 minutes then warmed to ambient temperature for 3.5 hours. The solvent was removed in vacuo and the residue re-dissolved in DCM and absorbed onto SiO2. The crude product wad purifird by column chromatography (75% EtOAc/petroleum ether) to give the sub-title compound as a light yellow foam (290 mg, 0.80 mmol, 84%); 1H NMR (400 MHz, d-6 DMSO) δ 1.60 (3H, d), 3.80 (3H, s), 5.90 (1H, q), 7.14 (1H, d), 7.31-7.37 (1H, m), 7.43-7.49 (3H, m), 7.74-7.78 (2H, m), 8.29 (1H, d).

reactant | Triphenyl phosphine | 1.16 mmol, 304 mg, 1.3 Eq. | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1-(2-Chloro-phenyl)-ethanol | 1.16 mmol, 182 mg, 1.3 Eq. | ClC1=C(C=CC=C1)C(C)O | C8H9ClO
reactant | 3-Hydroxy-5-imidazol-1-yl-thiophene-2-carboxylic acid methyl ester | 0.89 mmol, 200 mg, 1.0 Eq. | COC(=O)C=1SC(=CC1O)N1C=NC=C1 | C9H8N2O3S
reactant | Diethyl azodicarboxylate | 1.16 mmol, 183 μL, 1.3 Eq. | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 3-[1-(2-Chloro-phenyl)-ethoxy]-5-imidazol-1-yl-thiophene-2-carboxylic acid methyl ester | 0.80 mmol, 290 mg, 84% | COC(=O)C=1SC(=CC1OC(C)C1=C(C=CC=C1)Cl)N1C=NC=C1 | C17H15ClN2O3S
